US04112111
1-amino-5-chlorindoline was reacted with benzoyl isothiocyanate in boiling tetrahydrofuran. Saponification of the resulting product with dilute aqueous sodium hydroxide under reflux for 15 minutes gave 1-(5-chloroindolin-1-yl)-thiourea (M.Pt. 199° - 200° from ethyl acetate/petroleum ether). This thiourea was heated in boiling methanol in the presence of methyliodide for 1 hour to give 1-(5-chloroindolin-1-yl)-2-methylisothiourea hydroiodide. The base was liberated with aqueous sodium hydroxide. Reaction of the base with 2N ethanolic hydrogen chloride yielded 1-(5-chlorindolin-1-yl)-2-methylisothiourea hydrochloride (M.Pt. 178° - 179° from ethanol/ether).

reactant | 1-amino-5-chlorindoline | NN1CCC2=CC(=CC=C12)Cl | C8H9ClN2
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(5-chloroindolin-1-yl)-thiourea | ClC=1C=C2CCN(C2=CC1)NC(=S)N | C9H10ClN3S
